US07067537B2
ii) Production of 5-cyano-N-ethylnicotinamide
By the reaction in the same manner as in Example 42-ii) using 5-bromo-N-ethylnicotinamide (580 mg) and copper cyanide (350 mg), the title compound (141 mg) was obtained as colorless powder crystals.

reactant | 5-bromo-N-ethylnicotinamide | 580 mg | BrC=1C=NC=C(C(=O)NCC)C1 | C8H9BrN2O
reactant | copper cyanide | 350 mg | [Cu](C#N)C#N
product | 5-cyano-N-ethylnicotinamide | 141 mg | C(#N)C=1C=NC=C(C(=O)NCC)C1 | C9H9N3O
